data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2103,2331,[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24]#[N:25])[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:23]1([C:24]#[N:25])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[N:26]1[CH3:27],water,298.15,21.54815846542314,-5.838820727472447
2655,2944,[CH3:1][CH:2]1[C:3]#[C:4][C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C:26](=[NH+:27][C-:28]([CH3:29])[C:30](=[O:31])[O:32][CH3:33])[C:34](=[O:35])[NH:36][CH3:37]>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([NH:23][CH3:22])=[O:25])([C:34](=[O:35])[NH:36][CH3:37])[NH:27][C:28]2([CH3:29])[C:30](=[O:31])[O:32][CH3:33],water,298.15,27.46167231857988,-42.078968633531936
2942,3282,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][N-:6][O+:7]=[C:8]([C:9]#[N:10])[C:11]#[N:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[O:7][C:8]1([C:9]#[N:10])[C:11]#[N:12],water,298.15,15.700477009007573,-49.280116241067255
622,682,[CH3:13][O:14][C:15](=[O:16])[CH:17]=[NH+:18][C-:19]([CH3:20])[CH3:21].[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([CH3:11])[CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([CH3:11])([CH3:12])[C:19]([CH3:20])([CH3:21])[NH:18][CH:17]1[C:15]([O:14][CH3:13])=[O:16],water,298.15,23.51898066627985,-2.3694277351489506
454,496,[CH3:11][CH:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[NH:13][CH:12]3[CH3:11],water,298.15,17.249370376791134,-33.501032222575105
1381,1518,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([C:20](=[O:21])[O:22][CH3:23])[c:24](=[O:25])[o:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[NH:18][C:19]3([C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[O:26]1,water,298.15,27.99804950668381,-12.22815170655217
3836,4390,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([CH3:19])[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:18]([CH3:19])([CH3:20])[NH:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,29.93833828543937,-4.332687595256904
102,115,[CH3:9][C:10](=[O:11])[CH:12]=[O+:13][C-:14]([CH3:15])[C:16]#[N:17].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[CH:12]([C:10]([CH3:9])=[O:11])[O:13][C:14]2([CH3:15])[C:16]#[N:17],water,298.15,6.756100866149138,-67.26948088633054
189,206,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH3:6][C:7](=[O:8])[C:9]#[N+:10][C-:11]([C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17]>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:11]([C:12]([CH3:13])=[O:14])([C:15]([CH3:16])=[O:17])[N:10]=[C:9]1[C:7]([CH3:6])=[O:8],water,298.15,22.17351510564579,-61.87320305805314
4132,4732,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]([CH3:17])=[O:18])[C:19](=[O:20])[NH:21][CH3:22]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:19](=[O:20])[NH:21][CH3:22])[N:14]=[C:15]2[C:16]([CH3:17])=[O:18],water,298.15,9.64162724275539,-30.920629601701
3915,4479,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]([C:16]#[N:17])([C:18](=[O:19])[O:20][CH3:21])[O:14][CH:13]2[C:11]([NH:10][CH3:9])=[O:12],water,298.15,3.897502074237458,-40.163187631794976
461,503,[CH2:11]=[NH+:12][CH-:13][C:14](=[O:15])[O:16][CH3:17].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:13]([C:14](=[O:15])[O:16][CH3:17])[NH:12][CH2:11]2,water,298.15,11.825438136327882,-42.19936048006914
1861,2064,[CH3:11][C-:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:19]([CH3:20])[C:12]3([CH3:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,25.28772200231927,-37.656376573921534
